US05919433
a) N-(2-Bromopropionyl)-alanine
69.26 g (404 mmol) of α-bromopropionic acid chloride is added in drops at 0° C. to 30 g (336.7 mmol) of alanine and 102.2 g (1010.2 mmol) of triethylamine in 600 ml of methylene chloride. In this case, the temperature remains between 0° C.-5° C. 1000 ml of 5% aqueous hydrochloric acid is added, and the organic phase is separated. The organic phase is extracted once more with 400 ml of 5% aqueous hydrochloric acid, dried on magnesium sulfate and evaporated to dryness in a vacuum. The residue is recrystallized from acetone/diisopropyl ether.

reactant | α-bromopropionic acid chloride | 404 mmol, 69.26 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | alanine | 336.7 mmol | N[C@@H](C)C(=O)O | C3H7NO2
reactant | triethylamine | 1010.2 mmol, 102.2 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1000 ml | Cl | ClH
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Bromopropionyl)-alanine | BrC(C(=O)N[C@@H](C)C(=O)O)C | C6H10BrNO3
